US07939524B2
d) Methyl (1R,2S,3R,4S)-3-[(4-fluoro-3-methylbenzyl)amino]-7-oxabicyclo[2.2.1]heptane-2-carboxylate
To a stirred solution of methyl (1R,2S,3R,4S)-3-amino-7-oxabicyclo[2.2.1]heptane-2-carboxylate (400 mg, 2.34 mmol) in methanol (8 mL) under a nitrogen atmosphere, 4-fluoro-3-methyl-benzaldehyde (0.29 mL, 2.34 mmol) was added. The mixture was stirred for 10 min, and then acetic acid (0.4 mL) was added followed by sodium cyanoborohydride (368 mg, 5.85 mmol). The resulting mixture was stirred at 25° C. for 16 h, and then poured into a mixture of saturated aqueous sodium bicarbonate solution (50 mL) and ethyl acetate (100 mL). The layers were separated and the aqueous layer was extracted with ethyl acetate. The combined organic layers were washed with saturated aqueous brine solution, dried over magnesium sulfate and filtered. The filtrate was concentrated in vacuo to afford the desired product, methyl (1R,2S,3R,4S)-3-[(4-fluoro-3-methylbenzyl)amino]-7-oxabicyclo[2.2.1]heptane-2-carboxylate (610 mg, 2.08 mmol, 80%), as a clear oil. 1H NMR (400 MHz, CDCl3) δ: 1.40 (2H, m), 1.76 (2H, m), 2.27 (3H, d, J=2.0 Hz), 2.86 (1H, d, J=7.6 Hz), 3.16 (1H, d, J=8.4 Hz), 3.64 (1H, d, J=13.2 Hz), 3.74 (3H, s), 3.79 (1H, d, J=13.6 Hz), 4.46 (1H, d, J=5.2 Hz), 4.73 (1H, d, J=4.8 Hz), 6.92 (2H, m), 7.07 (2H, m).

reactant | methyl (1R,2S,3R,4S)-3-amino-7-oxabicyclo[2.2.1]heptane-2-carboxylate | 2.34 mmol, 400 mg | N[C@@H]1[C@@H]([C@H]2CC[C@@H]1O2)C(=O)OC | C8H13NO3
reactant | 4-fluoro-3-methyl-benzaldehyde | 2.34 mmol, 0.29 mL | FC1=C(C=C(C=O)C=C1)C | C8H7FO
reactant | sodium cyanoborohydride | 5.85 mmol, 368 mg | C(#N)[BH3-].[Na+]
reactant | sodium bicarbonate | 50 mL | C([O-])(O)=O.[Na+]
solvent | methanol | 8 mL | CO | CH4O
solvent | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
solvent | acetic acid | 0.4 mL | C(C)(=O)O | C2H4O2
product | methyl (1R,2S,3R,4S)-3-[(4-fluoro-3-methylbenzyl)amino]-7-oxabicyclo[2.2.1]heptane-2-carboxylate | 2.08 mmol, 610 mg, 80% | FC1=C(C=C(CN[C@@H]2[C@@H]([C@H]3CC[C@@H]2O3)C(=O)OC)C=C1)C | C16H20FNO3
